US08541588B2
4-[2-(3-amino-1H-pyrazol-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-pyrimidin-4-ylbenzenesulfonamide
4-{2-[3-amino-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-chlorophenoxy}-5-chloro-2-fluoro-N-(methoxymethyl)-N-pyrimidin-4-ylbenzenesulfonamide (Preparation 887, 58 mg, 0.093 mmol) in methanol (1 mL, 20 mmol) and 2 M of hydrogen chloride in water (1 mL, 2 mmol) was heated at 60° C. for 2 hours then concentrated. The residue was liophilized from acetonitrile-water to give 50 mg of a white solid.

reactant | 4-{2-[3-amino-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-chlorophenoxy}-5-chloro-2-fluoro-N-(methoxymethyl)-N-pyrimidin-4-ylbenzenesulfonamide | 0.093 mmol, 58 mg | NC1=NN(C=C1C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)N(C2=NC=NC=C2)COC)F)C=CC(=C1)Cl)C1OCCCC1 | C26H25Cl2FN6O5S
reactant | methanol | 20 mmol, 1 mL | CO | CH4O
reactant | water | 2 mmol, 1 mL | O | H2O
solvent | hydrogen chloride | 2 M | Cl | ClH
product | 4-[2-(3-amino-1H-pyrazol-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-pyrimidin-4-ylbenzenesulfonamide | 50 mg | NC1=NNC=C1C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)NC2=NC=NC=C2)F)C=CC(=C1)Cl | C19H13Cl2FN6O3S
